US06881736B1
f) Methyl (±)-3-[4-(benzyloxycarbonyl)-1,3-oxazol-2-yl]-4-[4-(triisopropylsilyloxy)phenyl]butanoate
To a solution of methyl (±)-3-[4-(benzyloxycarbonyl)-1,3-oxazolin-2-yl]-4-[4-(triisopropylsilyloxy)phenyl]butanoate (4.45 g, 8.03 mmole) in CH2Cl2 (40 mL) at 0° C. was added DBU (1.4 mL, 9.64 mmole), followed by bromotrichloromethane (0.95 mL, 9.64 mmole). The mixture was allowed to warm to RT as the bath warmed. After 18 hr the mixture was concentrated. The residue was chromatographed on silica gel (20% EtOAc/hexanes) to give the title compound (2.23 g, 50%) as a clear oil: MS (ES) m/e 552 (M+H)+.

reactant | methyl (±)-3-[4-(benzyloxycarbonyl)-1,3-oxazolin-2-yl]-4-[4-(triisopropylsilyloxy)phenyl]butanoate | 8.03 mmole, 4.45 g | C(C1=CC=CC=C1)OC(=O)C1N=C(OC1)C(CC(=O)OC)CC1=CC=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C | C31H43NO6Si
reactant | DBU | 9.64 mmole, 1.4 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | bromotrichloromethane | 9.64 mmole, 0.95 mL | BrC(Cl)(Cl)Cl | CBrCl3
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | Methyl (±)-3-[4-(benzyloxycarbonyl)-1,3-oxazol-2-yl]-4-[4-(triisopropylsilyloxy)phenyl]butanoate | 2.23 g, 50% | C(C1=CC=CC=C1)OC(=O)C=1N=C(OC1)C(CC(=O)OC)CC1=CC=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C | C31H41NO6Si
